US08293923B2
Step 7: 4-(5-(hydroxymethyl)-2-(5-(4-methoxypyridin-3-yl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazol-1-yl)cyclohexanol
(1-(4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl)-5-(tert-butyl-dimethyl-silanyloxymethyl)-1H-benzoimidazol-2-yl)-(5-(4-methoxy-pyridin-3-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-yl)-amine (165 mg, 0.000196 mol) was dissolved in ethanol (6.0 mL). To this solution was added 12 M HCl (2.0 mL) and the reaction was stirred at 100° C. for 1.5 hours. The reaction was evaporated to dryness and the residue was purified by preparative HPLC to yield 17.1 mg of the title compound as the TFA salt.

reactant | (1-(4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl)-5-(tert-butyl-dimethyl-silanyloxymethyl)-1H-benzoimidazol-2-yl)-(5-(4-methoxy-pyridin-3-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-yl)-amine | 0.000196 mol, 165 mg | C(C)(C)(C)[Si](OC1CCC(CC1)N1C(=NC2=C1C=CC(=C2)C(O[SiH2]C(C)(C)C)(C)C)NC2=NN(C1=CC=C(C=C21)C=2C=NC=CC2OC)COCC[Si](C)(C)C)(C)C | C45H70N6O4Si3
reactant | HCl | 12 M, 2.0 mL | Cl | ClH
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
product | 4-(5-(hydroxymethyl)-2-(5-(4-methoxypyridin-3-yl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazol-1-yl)cyclohexanol | 17.1 mg | OCC1=CC2=C(N(C(=N2)NC2=NNC3=CC=C(C=C23)C=2C=NC=CC2OC)C2CCC(CC2)O)C=C1 | C27H28N6O3
